US06914074B2
6-(4-Hydroxyphenyl)-1-phenyl-2-naphthol
To a mixture of 2-methoxy-6-(4-methoxyphenyl)-1-phenylnaphthalene (0.36 g, 1.06 mmol) in CH2Cl2 (25 mL) at 0° C. was slowly added boron tribromide (3.2 mL of 1 N in CH2Cl2). The mixture was allowed to warm slowly to room temperature and was stirred overnight. The resulting solution was poured into water (100 mL) and extracted with ethyl acetate (3×150 mL). The combined organic layers were washed with saturated sodium bicarbonate solution, dried over magnesium sulfate, evaporation of thesolvent, and purification by silica column chromatography (25% ethyl acetate-hexanes) followed by preparative reverse-phase HPLC and drying under vacuum at 105° C. yielded 0.14 g (42%) of the title compound as a white solid: mp 142-146° C.; 1H NMR (DMSO-d6): δ 6.86 (2H, d, J=8.50 Hz), 7.26-7.42 (5H, m), 7.48-7.61 (5H, m), 7.84 (1H, d, J=8.96 Hz), 8.02 (1H, d, J=1.46 Hz), 9.52 (2H, s); MS (ESI) m/z 311 (M−H)−.

reactant | 2-methoxy-6-(4-methoxyphenyl)-1-phenylnaphthalene | 1.06 mmol, 0.36 g | COC1=C(C2=CC=C(C=C2C=C1)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C24H20O2
reactant | boron tribromide | 1 N, 3.2 mL | B(Br)(Br)Br | BBr3
reactant | water | 100 mL | O | H2O
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 6-(4-Hydroxyphenyl)-1-phenyl-2-naphthol | 0.14 g, 42% | OC1=CC=C(C=C1)C=1C=C2C=CC(=C(C2=CC1)C1=CC=CC=C1)O | C22H16O2
